US07745462B2
5-n-Butylindan-1-one
A solution of 1-(4-n-butylphenyl)-3-chloropropan-1-one (17.88 g, 79.8 mmol) in concentrated sulphuric acid (69 ml) is heated at 90° C. for 4 hours. After cooling to ambient temperature, the reaction mixture is poured on to ice and extracted with toluene. The combined organic phases are washed with saturated NaHCO3, brine, dried (MgSO4) and evaporated to afford the title compound. NMR δH 0.85 (t J 7.3 3H), 1.28 (sextet J 7.3 2H), 1.56 (quintet J 7.3 2H), 2.6 (m 4H), 3.02 (t J 5 2H), 7.10 (d J 8.3 1H), 7.20 (s 11H), 7.60 (d J 8.3 2H)

reactant | 1-(4-n-butylphenyl)-3-chloropropan-1-one | 79.8 mmol, 17.88 g | C(CCC)C1=CC=C(C=C1)C(CCCl)=O | C13H17ClO
solvent | sulphuric acid | 69 ml | S(O)(O)(=O)=O | H2O4S
product | 5-n-Butylindan-1-one | C(CCC)C=1C=C2CCC(C2=CC1)=O | C13H16O
